US06159904
1.0 Gram (3.3 mmol) of 4-ethylthio-5-methyl-6-carboxy-8-chlorothiochroman was dissolved in 5 ml of t-amyl alcohol, and 0.45 g (4.0 mmol, 1.2 eq.) of 1-ethyl-5-hydroxypyrazole and 0.83 g (4.0 mmol, 1.2 eq.) of N,N'-dicyclohexylcarbodiimide were added. The mixture was stirred at room temperature for 2.5 hours. After the completion of the reaction, ethyl acetate and hexane were added, and liberated N,N'-dicyclohexylurea was filtered off. The filtrate was concentrated and purified by column chromatography (silica gel/hexane+ethyl acetate=5:1) to give 1.4 g (yield 100%) of 4-ethylthio-5-methyl-6-(1-ethylpyrazol-5-yl)oxycarbonyl-8-chlorothiochroman.

reactant | 4-ethylthio-5-methyl-6-carboxy-8-chlorothiochroman | 3.3 mmol | C(C)SC1CCSC2=C(C=C(C(=C12)C)C(=O)O)Cl | C13H15ClO2S2
reactant | 1-ethyl-5-hydroxypyrazole | 4.0 mmol, 0.45 g, 1.2 eq. | C(C)N1N=CC=C1O | C5H8N2O
reactant | N,N'-dicyclohexylcarbodiimide | 4.0 mmol, 0.83 g, 1.2 eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,N'-dicyclohexylurea | C1(CCCCC1)NC(=O)NC1CCCCC1 | C13H24N2O
solvent | t-amyl alcohol | 5 ml | C(C)(C)(CC)O | C5H12O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-ethylthio-5-methyl-6-(1-ethylpyrazol-5-yl)oxycarbonyl-8-chlorothiochroman | 1.4 g, yield 100% | C(C)SC1CCSC2=C(C=C(C(=C12)C)C(=O)OC1=CC=NN1CC)Cl | C18H21ClN2O2S2
